US04015009
A mixture of 4.24 g. of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one, 2.12 g. of benzaldehyde, 20 drops of piperidine and 75 ml. of chloroform is refluxed for eight hours. The water liberated during the reaction is removed by a receiver. The reaction mixture is concentrated and triturated with ethanol to afford 5-acetyl-3-cinnamoyl-4-hydroxy-2H-pyran-2,6(3H)-dione, m.p. 154°-155° C.

reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | piperidine | 20 drops | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | 5-acetyl-3-cinnamoyl-4-hydroxy-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)C(C=CC1=CC=CC=C1)=O)O | C16H12O6
